US07420001B2
To benzoxazole-2-carboxylic acid ethyl ester (437 mg, 4 mmol) was added 2 mL of THF and 4 mL of NaOH solution (2N in MeOH). The reaction mixture was stirred at room temperature overnight. The suspension was filtered and the solid was dried under vacuum to give 160 mg of benzoxazole-2-carboxylic acid sodium salt as an off-white solid.

reactant | benzoxazole-2-carboxylic acid ethyl ester | 4 mmol, 437 mg | C(C)OC(=O)C=1OC2=C(N1)C=CC=C2 | C10H9NO3
reactant | NaOH | 2N, 4 mL | [OH-].[Na+]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | benzoxazole-2-carboxylic acid sodium salt | 160 mg | [Na+].O1C(=NC2=C1C=CC=C2)C(=O)[O-] | InChI=1S/C8H5NO3.Na/c10-8(11)7-9-5-3-1-2-4-6(5)12-7;/h1-4H,(H,10,11);/q;+1/p-1
